US05569664
After a mixture of 5.7 grams (0.034 mole) of 2,6-dimethoxyphenylmethanol in 40 mL of concentrated hydrobromic acid was stirred at ambient temperature for about one hour, the reaction mixture was taken up in diethyl ether. Solid sodium chloride was added to the mixture to obtain a phase separation. The organic layer was separated and concentrated under reduced pressure, yielding about 4.7 grams of 2,6-dimethoxyphenylmethyl bromide. This compound was used immediately in the next reaction.

reactant | 2,6-dimethoxyphenylmethanol | 0.034 mole, 5.7 grams | COC1=C(C(=CC=C1)OC)CO | C9H12O3
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrobromic acid | 40 mL | Br | BrH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,6-dimethoxyphenylmethyl bromide | about 4.7 grams | COC1=C(C(=CC=C1)OC)CBr | C9H11BrO2
